US08212065B2
In a 500 ml round-bottomed flask, 3.00 g of tert-butyl L-lactate (ee>99%) was dissolved in 165 ml of absolute dichloromethane and cooled to 0° C. under argon. Thereafter, first 3.10 ml of 2.6-lutidine and then slowly 4.15 ml of trifluoromethanesulphonic anhydride were added in succession and the reaction was stirred for 50 min at 0° C. Thereafter, the reaction mixture was diluted with 400 ml of petroleum ether, washed 4 times with 250 ml of a 3:1 mixture of saturated aqueous sodium chloride solution and 1 N hydrochloric acid, dried over MgSO4 and concentrated in vacuo. The residue was applied to a silica gel filter and washed off said filter with a 1:1 mixture of petroleum ether and dichloromethane. After removal of the solvent, the pure tert-butyl (S)-2-trifluoromethanesulphonyloxypropionate (ee>99%) was obtained in a yield of 90%.

reactant | 2.6-lutidine | 3.10 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulphonic anhydride | 4.15 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | tert-butyl L-lactate | 3.00 g | C([C@@H](O)C)(=O)OC(C)(C)C | C7H14O3
solvent | dichloromethane | 165 ml | ClCCl | CH2Cl2
product | tert-butyl (S)-2-trifluoromethanesulphonyloxypropionate | yield of 90% | FC(S(=O)(=O)O[C@H](C(=O)OC(C)(C)C)C)(F)F | C8H13F3O5S
